US06451811B2
Ethyl 6-Bromo-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylate
A solution of 6-amino-3-bromo-2-methylpyridine (1.89 g, 10 mmol) and diethoxymethylenemalonate (2.16 g, 10 mmol) is heated at 110° C. for 30 min. The reaction is cooled and the residue is recrystallized from EtOH. To the resulting solid is dissolved in 45 mL of Ph2O. The mixture is heated to 250° C. for 3 h. The solution is then cooled to room temperature and the resulting precipitate is collected and dried. The crude product is chromatographed on silica (Biotage flash 40M, 2% MeOH/CH2Cl2 eluent). Fractions homogeneous by TLC are collected and concentrated to yield 1.075 g (35%) of the desired product as a yellow solid. Physical data are as follows: m.p. 270° C. (dec.); 1H NMR (DMSO-d6) δ 12.73, 8.49, 8.47, 4.21, 2.67, 1.27.

reactant | 6-amino-3-bromo-2-methylpyridine | 10 mmol, 1.89 g | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
reactant | diethoxymethylenemalonate | 10 mmol, 2.16 g | C(C)OC(OCC)=C(C(=O)[O-])C(=O)[O-]
product | Ethyl 6-Bromo-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylate | 1.075 g, 35% | BrC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)O | C12H11BrN2O3
